US07498337B2
ethyl 2-chloro-5-phenyl-1H-pyrrole-3-carboxylate
To a solution (60 mL) of ethyl 2-cyano-4-oxo-4-phenylbutanoate (5.0 g) in tetrahydrofuran was blown in hydrogen chloride (28 g) under ice-cooling, and the mixture was stirred at room temperature for 3 hr. Then, nitrogen was blown in to remove excess hydrogen chloride. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=6:1) to give the title compound as a pale-yellow solid (yield 4.24 g, 79%).

reactant | ethyl 2-cyano-4-oxo-4-phenylbutanoate | 60 mL, 5.0 g | C(#N)C(C(=O)OCC)CC(C1=CC=CC=C1)=O | C13H13NO3
reactant | hydrogen chloride | 28 g | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 2-chloro-5-phenyl-1H-pyrrole-3-carboxylate | yield 4.24 g, 79% | ClC=1NC(=CC1C(=O)OCC)C1=CC=CC=C1 | C13H12ClNO2
